2107-11-30 07:09:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Yesterday patient was brought to the stent lab.  Mid LAD was totally
   occluded, vessel was revascularized with bare metal stent with
   revascularization and flow.
   Pt was hypotensive to high 70s/30s overnight.  BP jumped when pt
   awoken.  Maintained MAP 55 overnight, evening dose captopril held.
   Had an episode of choking sensation overnight, felt like an allergic
   response.  No shortness of breath.  No chest pain, nausea.  No ECG
   changes.
   Allergies:
   Penicillins
   itching;
   Iodine; Iodine Containing
   Anaphylaxis;
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 750 units/hour
   Eptifibatide (Integrilin) - 2 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2107-11-30**] 07:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.4
C (97.6
   HR: 55 (55 - 95) bpm
   BP: 85/59(66) {79/43(53) - 114/80(99)} mmHg
   RR: 15 (12 - 22) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,437 mL
                                                                    587 mL
   PO:
                                                                    600 mL
                                                                    200 mL
   TF:
   IVF:
                                                                    837 mL
                                                                    387 mL
   Blood products:
   Total out:
                                                                    900 mL
                                                                    950 mL
   Urine:
                                                                    900 mL
                                                                    950 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    537 mL
                                                                   -363 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: 7.36/40/76.[**Numeric Identifier 126**]/25/-2
   Physical Examination
   Cardiovascular: GENERAL: WDWN femalein NAD. Oriented x3. Mood, affect
   appropriate.
   HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were pink, no
   pallor or cyanosis of the oral mucosa. No xanthalesma.
   NECK: Supple with JVP 6cm.
   CARDIAC: PMI located in 5th intercostal space, midclavicular line. RR,
   normal S1, S2. soft heart sounds.  Soft holosystolic murmur at apex. No
   thrills, lifts. No S3 or S4.
   LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp were
   unlabored, no accessory muscle use. Bibasilar rales, wheezes or
   rhonchi.
   ABDOMEN: Soft, NTND. No HSM or tenderness. Abd aorta not enlarged by
   palpation. No abdominial bruits.
   EXTREMITIES: No c/c/e.  Right groin with bandage, clean/dry/intact.
   Small bruise, minimal hematoma.  No femoral bruit.
   SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.
   PULSES:
   Right: Carotid 2+ Femoral 2+ Popliteal 2+ DP 2+ PT 2+
   Left: Carotid 2+ Femoral 2+ Popliteal 2+ DP 2+ PT 2+
   Labs / Radiology
   171 K/uL
   11.1 g/dL
   132 mg/dL
   0.9 mg/dL
   25 mEq/L
   4.1 mEq/L
   16 mg/dL
   105 mEq/L
   137 mEq/L
   33.7 %
   9.1 K/uL
        [image002.jpg]
                             [**2107-11-29**]  12:31 PM
                             [**2107-11-29**]  02:23 PM
                             [**2107-11-29**]  02:55 PM
                             [**2107-11-29**]  11:50 PM
                             [**2107-11-30**]  03:16 AM
   WBC
   9.1
   Hct
   36.2
   33.7
   Plt
   [**Telephone/Fax (3) 12017**]
   Cr
   0.9
   TropT
   6.13
   3.57
   TCO2
   24
   Glucose
   132
   Other labs: PT / PTT / INR:12.7/100.2/1.1, CK / CKMB /
   Troponin-T:706/62/3.57, Ca++:8.4 mg/dL, Mg++:1.9 mg/dL, PO4:3.5 mg/dL
   Imaging: There are increased bilateral peripheral
   and perihilar interstitial opacities, with [**Last Name (un) **] B and A lines noted,
   suggestive of fluid overload. There are small bilateral pleural
   effusions
   with a small amount of fluid tracking into the minor fissure. Linear
   opacity
   at the left lung base, is compatible with atelectasis. Hyperexpansion
   is
   compatible with underlying chronic lung disease. The heart size is
   enlarged.
   The thoracic aorta is tortuous with calcified plaque. There is no
   pneumothorax. There is degenerative changes throughout the thoracic
   spine
   with partially visualized posterior spinal fusion hardware in the upper
   lumbar
   spine.
   Microbiology: none
   ECG: P
   Assessment and Plan
   86 yof w/ h/o dyslipidemia p/w SSCP and nausea, STE on ECG, and
   complete occlusion of mid LAD, s/p bare metal stent placement.
   # CORONARIES - Pt s/p  bare metal stent.   She was loaded with
   integrellin and heparin.  She was also started on low dose captopril
   for cardioprotection.  BB was deferred given risk of vasovagal response
   and bradycardia with sheath removal.  She has remained hypotensive
   while asleep, normotensive when awake.  Given low nighttime blood
   pressures evening dose of captopril was held.  Continues to have HR in
   80s-90s.  BB for HR control may have better outcomes.  Does not require
   afterload reduction at present
   - atorvastatin 80
   - ASA 325
   - Plavix 75
   - ECG in AM
   - metoprolol 12.5 [**Hospital1 **]
   # PUMP:  Pt now s/p STEMI with worsening STE on ECG s/p intervention.
   Carries poor prognosis, possibly indicating that revascularization will
   have less benefit in her than if her ECG normalized after intervention
   (Am J Cardiol [**2098**];88:956
959). Perisistent STE after revascularization
   is not an uncommon phenomenon, present in 20-50% of pts in numerous
   trials assessing this marker of poor prognosis.   Perisistent ST
   elevations despite TIMI III flow are possibly due to microvascular
   reperfuion injury.  increasing risk of LV aneurysmal formation,
   possibly other mechanical complications. She also recieved IV steroids
   w/in 24 hrs of STEMI, some data suggests this may possibly increase
   risk of early infarct.
   - heparin for ventricular thrombus
   - initiate coumadin, can f/u in 3 months for repeat ECHO, and possible
   d/c at that time.
   # RHYTHM: Pt has maintained nl sinus rhythm throughout, intermittent
   PVCs
   # Contrast allergy - Pt has risk of anaphylaxis with IV contrast she
   was given for PCI.  She was pretreated with solumedrol and benadryl.
   Will have to follow for signs of anaphylaxis, including throat closing,
   hypotension.
   - prednisone if symptoms recur, can start low dose
   - if acutely hypotensive -- epinepherine.
   - Loratadine prn
   # ?Hypoestrogenism - Pt on long term estrogen therapy since the late
   [**2037**].  Not needed.
   - d/c estrogen
   # Hypothyroidism - continue home synthroid
   #MGUS - stable, followed as outpt
   #L2 - L3 Laminectomy s/p growth stim, leads unable to be removed, pt
   unable to get MRI.
   FEN: Cardiac, low sodium diet
   ACCESS: PIV's
   PROPHYLAXIS:
   -DVT ppx with heparin
   -Pain management with Tylenol
   -Bowel regimen with colace, senna
   CODE: Full
   COMM:  patient
   DISPO: CCU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2107-11-29**] 01:36 PM
   22 Gauge - [**2107-11-29**] 01:38 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I would add the following remarks:
   History
   86 year old female who presented with nausea and chest pressure X 1
   day.  Nausea and substernal chest pressure began at 7pm 1 day PTA after
   dinner. Pressure was described as located in the mid chest without
   radiation. She stated that she has been experiencing dyspnea over the
   past two months and was undergoing a pulmonary workup with her PCP. [**Name10 (NameIs) **]
   recalls feeling severe nausea.  She went to bed essentially chest pain
   free per her report.  She awoke at 3am on DOA with persistence of her
   symptoms.  At 6am, the pain was worse.  She describes it as sharp,
   substernal [**7-1**], worse with inspiration.  It was associated with
   nausea.  She denied associated SOB or diphoresis, radiation.  She also
   denied recent illness, jaw pain, cough, diarrhea, hematochezia, or
   hematemesis. She called EMS and was brought to the ED then to the
   floor. On the floor the patient experienced worse chest pain associated
   with ST elevations in V3-V6 so she was brought to the cath lab. Cath
   demonstrated an occluded LAD at the mid level with moderate disease
   elsewhere. A 2.5mm X 12mm MiniVision (BMS) stent was placed in the mid
   LAD and post-dilated with a 2.5mm NC balloon with TIMI 3 flow following
   the procedure. Echo demonstrated severe HK to akinesis in the anterior
   wall with EF 30-35%. CK perk was 976 with MB 9.5 and trop 6.13.
   Integrilin is now off. BPs have been 80/60 and so ACEI has been held.
   Otherwise no further chest pain this am but she does report
   intermittent throat tightness similar to her allergic symptoms but the
   symptoms are not present now.
   Physical Examination
   lungs - scant bibas rales
   Heart - soft HSM
   ext no edema.
   Medical Decision Making
   86 female her with anterion STEMI s/p successful revasc with BMS. We
   will push beta blockers as BP allows. Will add warfarin to prevent
   mural thrombus. Plavix and asa mandatory for one month and out to one
   year if possible. Lipito 80 mg QD per PROVE IT TIMI 22. Hopefully the
   wall motion is myocardial stunning as CK/MB rise was moderate for the
   degree of wall motion abnormality. Will resume ACEI when BP allow. Team
   had been told to watch for increase MR murmur and free wall rupture.
   Above discussed extensively with patient. Above discussed with primary
   care physician: [**Name10 (NameIs) 568**] and Pride.
   Total time spent on patient care: 60 minutes of critical care time.
   ------ Protected Section Addendum Entered By:[**Name (NI) 861**] [**Last Name (NamePattern1) **], MD
   on:[**2107-11-30**] 01:09 PM ------